US05582764
26.1 g (0.1 mol) of trans-1-(2-bromoethyl)-4-n-pentylcyclohexane was dripped into a mixture of 2.5 g (0.11 mol) of magnesium and 300 ml of THF to obtain a Grignard's reagent. This solution was then dripped into a 500 ml THF solution of 0.5 g of triethyl phosphate, 0.1 g of copper (I) iodide and 40.7 g (0.1 mol) of 4-(4-chloro-4-silacyclohexyl)3',5'-difluoro-4'-trifluoromethoxybiphenyl. After a conventional after treatment, 4-(2-(trans-4-n-pentylcyclohexyl)ethyl)-4-silacyclohexyl)-3',5'-difluoro-4'-trifluoromethoxybiphenyl was obtained. The silacyclohexane rings of the product were a mixture of trans isomers and cis isomers. They were separated by means of chromatography to obtain 44.3 g (yield 90.1%) of the trans isomer.

reactant | trans-1-(2-bromoethyl)-4-n-pentylcyclohexane | 0.1 mol, 26.1 g | BrCC[C@@H]1CC[C@H](CC1)CCCCC | C13H25Br
reactant | magnesium | 0.11 mol, 2.5 g | [Mg] | Mg
reactant | triethyl phosphate | 0.5 g | P(=O)(OCC)(OCC)OCC | C6H15O4P
reactant | 4-(4-chloro-4-silacyclohexyl)3',5'-difluoro-4'-trifluoromethoxybiphenyl | 0.1 mol, 40.7 g | Cl[SiH]1CCC(CC1)C1=CC=C(C=C1)C1=CC(=C(C(=C1)F)OC(F)(F)F)F | C18H16ClF5OSi
catalyst | copper (I) iodide | 0.1 g | [Cu]I
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 3',5'-difluoro-4'-trifluoromethoxybiphenyl | yield 90.1% | FC=1C=C(C=C(C1OC(F)(F)F)F)C1=CC=CC=C1 | C13H7F5O
